US06403602B1
Morphine free base (500 mg., 1.75 mmol) was suspended in saturated sodium bicarbonate solution (50 ml) To the continuously stirred suspensions was added a molar equivalent of benzoic anhydride (396.89 ma, 1.75 mmol.), and the reaction was left to stir overnight at ambient temperature. The resulting solution was extracted with chloroform (6×10 ml) and the combine organic extracts dried over anhydrous magnesium sulfate and filtered. The solvent was then removed by rotary evaporation under reduced pressure to afford 0.520 gm (76.4%) of 3-O-benzoylmorphine as a colorless, amorphous solid, homogeneous by TLC (CHCl3MeOH(9:1), Rf=0.8). Elemental Analysis: Calcd. for (C24H23NO4: C, 74.04; H, 5.91; N, 3.60. Found: C, 74.11; H, 5.91; N, 3.63.

reactant | Morphine | 1.75 mmol, 500 mg | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | benzoic anhydride | 1.75 mmol | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
product | 3-O-benzoylmorphine | 0.520 gm, 76.4% | C(C1=CC=CC=C1)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | C24H23NO4
